US07309703B2
To a stirred solution of 1,2-dichloro-3-nitrobenzene (0.96 g, 5.0 mmol) and piperazine-1-carboxylic acid tert-butyl ester (0.93 g, 5.0 mmol) in acetonitrile (5 mL) was added of K2CO3 (1.38 g, 10 mmol). The mixture was heated at reflux for 48 h. The solvent was removed under reduced pressure. The crude material was partitoned between EtOAc (100 mL) and H2O (20 mL). The organic layer was washed with H2O (2×20 mL), dried over Na2SO4 and concentrated. Column chromatography (silica, 10-20% EtOAc/hexanes) provided 4-(2-chloro-6-nitro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (1.2 g, 70%). TLC (silica, 20% EtOAc/hexanes): Rf=0.45. MS (electrospray): exact mass calculated for C15H20ClN3O4, 341.1; m/z found, 364.1 [M+Na]+. 1H NMR (400 MHz, CDCl3) 7.56 (dd, J=8.2, 1.4 Hz, 1H), 7.50 (dd, J=8.2, 1.4 Hz, 1H), 7.13 (t, J=8.2 Hz, 1H), 3.38-3.56 (m, 4H), 3.06 (m, 4H), 1.48 (s, 9H).

reactant | 1,2-dichloro-3-nitrobenzene | 5.0 mmol, 0.96 g | ClC1=C(C(=CC=C1)[N+](=O)[O-])Cl | C6H3Cl2NO2
reactant | piperazine-1-carboxylic acid tert-butyl ester | 5.0 mmol, 0.93 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | K2CO3 | 10 mmol, 1.38 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 4-(2-chloro-6-nitro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 1.2 g, 70% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1[N+](=O)[O-])Cl | C15H20ClN3O4
